US08026269B2
To a solution of 1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethylamine (1.0 g, 3.3 mmol) in DMF (18 mL), were added 2-bromomethyl-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester (1.0 g, 3.3 mmol) and triethylamine (1.3 mL, 9.8 mmol). The mixture was heated at 90° C. overnight. The solvent was removed in vacuo. The resulting oil was extracted with ethyl acetate (50 mL) and water (30 mL). The organic layer was washed with water (30 mL×4) and brine (30 mL), and dried over magnesium sulfate. The solvent was removed in vacuo and the resulting oil was purified by silica gel column to give cyclopropanecarboxylic acid {2-[1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as a white solid (50 mg, 5%): mp 224-226° C.; 1H NMR (CDCl3) δ 0.35-0.39 (m, 2H, c-CH2), 0.60-0.63 (m, 2H, c-CH2), (0.88-0.93 (m, 2H, c-CH2), 1.08-1.12 (m, 2H, c-CH2), 1.25-132 (m, 1H c-CH), 1.63-1.69 (m, 1H, c-CH), 2.95 (s, 3H, CH3), 3.69 (dd, J=5, 15 Hz, 1H, CHH), 3.82 (d, J=4 Hz, 2H, c-CH), 3.86 (s, 3H, CH3), 4.19 (dd, J=10, 17 Hz, 1H, CHH), 4.20 (d, J=17 Hz, 1H, CHHN), 4.43 (d, J=17 Hz, 1H, CHHN), 5.72 (dd, J=5, 10 Hz, 1H, NCH), 6.84-7.02 (m, 4H, Ar), 7.45 (t, J=8 Hz, 1H, Ar), 8.43 (d, J=8 Hz, 1H, Ar), 10.46 (s, 1H, NHCO); 13C NMR (CDCl3) δ 3.3, 3.4, 8.3, 10.2, 16.2, 41.5, 47.9, 51.7, 55.9, 56.0, 74.3, 77.2, 111.8, 113.0, 116.7, 117.1, 117.9, 119.6, 129.4, 133.6, 138.2, 141.3, 149.1, 150.0, 170.1, 172.6. Analy. Calculated for C26H3oN2O6S: C, 62.63; H, 6.06; N, 5.62. Found: C, 62.41; H, 5.95; N, 5.43.

reactant | 1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethylamine | 3.3 mmol, 1.0 g | C1(CC1)COC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N | C14H21NO4S
reactant | 2-bromomethyl-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester | 3.3 mmol, 1.0 g | COC(C1=C(C=CC=C1NC(=O)C1CC1)CBr)=O | C13H14BrNO3
reactant | triethylamine | 9.8 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
product | cyclopropanecarboxylic acid {2-[1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 50 mg, 5% | C1(CC1)COC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1 | C26H30N2O6S
